US03971819
D. 3-amino-4-(4-benzyloxyphenoxy)-5-sulphamyl-benzoic acid
A suspension of 4-(4-benzyloxyphenoxy)-3-nitro-5-sulphamyl-benzoic acid (10 g) in water (250 ml) was adjusted to pH 11 by addition of 1N sodium hydroxide. The resulting solution was hydrogenated at room termperature and at 1.1 atmospheres hydrogen pressure after addition of a platinum oxide catalyst (0.4 g). After the hydrogen uptake had become negligible, the catalyst was removed by filtration, and the 3-amino-4-(4-benzyloxyphenoxy)-5-sulphamyl-benzoic acid was precipitated by adjusting the filtrate to pH 2.5 by addition of 4N hydrochloric acid. After recrystallization from aqueous ethanol and drying, the compound was obtained with a melting point of 264°-265°C.

reactant | 4-(4-benzyloxyphenoxy)-3-nitro-5-sulphamyl-benzoic acid | 10 g | C(C1=CC=CC=C1)OC1=CC=C(OC2=C(C=C(C(=O)O)C=C2S(N)(=O)=O)[N+](=O)[O-])C=C1 | C20H16N2O8S
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | hydrogen | [H][H] | H2
solvent | water | 250 ml | O | H2O
catalyst | platinum oxide | 0.4 g | [Pt]=O
product | 3-amino-4-(4-benzyloxyphenoxy)-5-sulphamyl-benzoic acid | NC=1C=C(C(=O)O)C=C(C1OC1=CC=C(C=C1)OCC1=CC=CC=C1)S(N)(=O)=O | C20H18N2O6S
